US07956066B2
A. 2-[4-(1-Methyl-piperidin-4-yl)-butoxy]-isonicotinonitrile.
To a stirred solution of 4-(1-methyl-piperidin-4-yl)-butan-1-ol (1.0 g, 5.85 mmol) in DMF (12 mL) at 0° C. was added NaH (60%; 280 mg, 7.02 mmol). The mixture was warmed to rt for 1 h, then cooled to 0° C. A solution of 2-chloro-isonicotinonitrile (810 mg, 5.85 mmol) in DMF (4 mL) was added dropwise. The mixture was stirred at rt for 18 h, and then was diluted with water (5 mL) and satd. aq. NaHCO3 (25 mL). The mixture was extracted with CHCl3 (3×25 mL), dried (Na2SO4), filtered, and. Purification by Method 1 afforded 440 mg (28%) of a yellow oil.

reactant | 4-(1-methyl-piperidin-4-yl)-butan-1-ol | 5.85 mmol, 1.0 g | CN1CCC(CC1)CCCCO | C10H21NO
reactant | NaH | 7.02 mmol, 280 mg | [H-].[Na+]
reactant | 2-chloro-isonicotinonitrile | 5.85 mmol, 810 mg | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 2-[4-(1-Methyl-piperidin-4-yl)-butoxy]-isonicotinonitrile | 440 mg, 28% | CN1CCC(CC1)CCCCOC=1C=C(C#N)C=CN1 | C16H23N3O
